Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin / Neurontin / Neomycin / Ciprofloxacin / Percocet / 
Perfume Ht52
 
Attending: ___.
 
Chief Complaint:
chest tightness/warmth
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ female with known CAD with bare metal stent in ___ 
and another one in ___, bilateral coronary artery stenosis s/p 
thrombectomy, hypertension, hyperlipidemia, chronic renal 
insufficiency, post-herpetic neuralgia intercostal neuralgia, 
scoliosis, and sacroiliac joint pain. At physical therapy this 
morning the patient was not feeling well, and developed a 
feeling of hotness in a band across her chest, she had a brief 
episode of blurry vision but denies headache, dizziness, 
confusion, slurred speech, pain that radiated to shoulder or 
back, abdominal pain, nausea, vomiting or shortness of breath. 
She went home and took two SL nitro without relief. She then had 
a bowel movement and felt markedly improved but came to the 
hospital anyway. She notes that on the way to the hospital she 
experienced shaking, but was not hot and thinks this was most 
likely due to anxiety. She has no recent travel (went to ___ 
in ___, leg pain. Two days ago she switched from protonix to 
omeprazole, but otherwise has had no medication changes. Of 
note, patient was off ___ from ___ prior to procedure 
at pain clinic. 
 
Past Medical History:
#Intercostal neuralgia T9,  
#Sacroiliac joint syndrome,  
#Post-herpetic neuralgia, followed by pain clinic, most recent 
intervention ___: Left T9 cryoneurolysis, Right sacroiliac 
joint injection, Left supraorbital nerve blocks. ___, during which time she underwent cryoablation of her L5 and 
S1 medial branches as well as a left supraorbital nerve block. 
Past interventions included cryoablation of her intercostal 
nerves, trigger point injections, and left supraorbital nerve 
blocks.  
#S/P left carotid endarterectomy by Dr. ___ in the past.  
She has bilateral 60-69% stenosis unchanged on ___.  
# stenosis in the ___ beyond the origin with chronic abdominal 
pain with eating.  
#CAD s/p bare metal stent to D1 in ___  
#Hypertension  
#HyperlipidemiaCAD  
#Childhood asthma/seasonal allergies  
#Chronic Anemia  
#Chronic renal insufficiency with baseline creatinine 1.4-2.1  
#Osteoporosis  
#Arthritis  
#Left Rotator Cuff Repair  
#Bilateral Cataract Surgery  
#Removal of a benign right breast lumps  
#Chronic intermittent diarrhea  
#Nocturnal leg cramps  

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
General: Thin female, alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear.  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, ___ holosytolic 
murmur heard best at LUSB.  
Abdomen: soft, non-tender, non-distended, bowel sounds +.  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema .  
.  

 
Pertinent Results:
___ 12:51PM BLOOD WBC-9.9 RBC-3.67* Hgb-12.0 Hct-34.2* 
MCV-93 MCH-32.7* MCHC-35.1* RDW-13.5 Plt ___
___ 12:51PM BLOOD Neuts-77.9* Lymphs-15.1* Monos-3.9 
Eos-2.8 Baso-0.3
___ 12:51PM BLOOD Glucose-80 UreaN-36* Creat-1.4* Na-141 
K-4.5 Cl-104 HCO3-24 AnGap-18
___ 12:51PM BLOOD CK(CPK)-112
___ 12:51PM BLOOD cTropnT-<0.01

EXAMINATION: PA and lateral chest radiographs. 
  
COMPARISONS: Comparison to PA and lateral chest radiographs from 
___ and CTA chest from ___. 
  
FINDINGS: The lungs are clear. There is no evidence of pneumonia 
or 
congestive heart failure. There is bilateral apical pleural 
thickening that is unchanged from prior examinations dating back 
to ___. There is a prominent nipple shadow in the right 
lung field. The mediastinal and cardiac contours are stable in 
appearance. There is no evidence of pleural effusions or 
pneumothorax. There is severe S-shaped scoliosis. There is no 
evidence of new fractures. 
  
IMPRESSION: No evidence of pneumonia. 

___ 07:00AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 07:21PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 07:00AM BLOOD CK(CPK)-78
___ 07:21PM BLOOD CK(CPK)-94
___ 01:15PM BLOOD %HbA1c-PND
 
Brief Hospital Course:
In the ED, initial vs were: T: 97.3 P:70 BP:133/58 RR:17 O2 sat 
100%RA. EKG showed new Q in lead III. Troponin <0.01, CK 112. 
Creatinine was at baseline 1.4.  
.
# Chest Pain: Patient with risk factors for ACS including 
hypertension, hyperlipidemia, vascular disease and known CAD. 
However, cardiac enzymes negative and EKG with a new q wave in 
III which is non-specific. However, chest pain as described is 
very atypical for cardiac chest pain in distribution and quality 
and it was relieved by bowel movement/eating and not relieved by 
SL nitrogen. This is most consistent with GI (patient recently 
swithched from protonix to omeprazole and may have missed a day 
or two and the pain was improved with bowel movement and 
eating), musculoskeletal pain (though not reprodouceable), 
anxiety (patient's dog died 10 days ago and she has been 
depressed and crying), vagal (given feeling of warmth and 
general weakness in the setting of stress and hunger). Her 
visual change is concerning for TIA, but there are no other 
neuro symptoms. Acute MI is less likely but needs to be ruled 
out given her history and risk factors.  She was observed 
overnight, 2 sets of enzymes came back negative and repeat EKG 
was unchanged.  She was monitored on telemetry, continued on 
___, BB, ACE, statin, had no more episodes of chest pain 
and was discharged the following day back on protonix. 
.  
# Hypertension:  Continued home dose of HCTZ, atenolol, 
lisinopril and nifedipine  
.  
# Hyperlipidemia: Continued statin  
.  
# Chronic Pain:  Continue home regimen of cyclobenzaprine prn, 
tylenol prn.  
.  
# Chronic Diarrhea:  Loperamide as needed.  
  

 
Medications on Admission:
AMOXICILLIN - 500MG Capsule - 4, 1HR PREDENTAL  
ATARAX - 25MG Tablet - ONE TID, AS NEEDED  
ATENOLOL - 25MG Tablet - ONE EVERY DAY  
ATORVASTATIN [LIPITOR] - (Dose adjustment - no new Rx) - 40 mg  
Tablet - 2 Tablet(s) by mouth  
CELEBREX - ___ Capsule - ONE EVERY DAY  
CLOPIDOGREL [___] - (Prescribed by Other Provider) - 75 mg  
Tablet - 1 Tablet(s) by mouth once a day pt to stop 7 days prior 
 
to procedures  
CYCLOBENZAPRINE [FLEXERIL] - (Prescribed by Other Provider) - 10 
 
mg Tablet - 1 Tablet(s) by mouth as needed for prn  
EPIPEN - 0.3MG/0.3 Pen Injector - AS DIRECTED  
FLUOROURACIL [EFUDEX] - (Prescribed by Other Provider) - 5 %  
Cream - take as directed as needed  
HCTZ - 25 MG - ONE EVERY MORNING  
LIDOCAINE [LIDODERM] - 5 % (700 mg/patch) Adhesive Patch,  
Medicated - take as directed daily as needed  
LISINOPRIL - 10MG Tablet - ONE EVERY DAY  
MECLIZINE [ANTIVERT] - (Prescribed by Other Provider) - 25 mg  
Tablet - 1 tablet three times a day as needed  
NITROQUICK - 0.4MG Tablet, Sublingual - AS DIRECTED  
PROCARDIA XL - 60MG Tab,Sust Rel Osmotic Push 24hr - ONE EVERY  
DAY  
PROTONIX - 40MG Tablet, Delayed Release (E.C.) - TAKE ONE TABLET 
 
DAILY.  
PROVENTIL - 90MCG Aerosol - 2 PUFFS QID, AS NEEDED  
RISEDRONATE [ACTONEL] - (Dose adjustment - no new Rx) - 35 mg  
Tablet - 1 Tablet(s) by mouth weekly  
___ - 100MG Tablet Sustained Release 12 hr - ONE BID, AS  
NEEDED  
TYLENOL/CODEINE ___ Tablet - ONE TABLET BY MOUTH Q 6 
 
HOURS AS NEEDED FOR PAIN  
ZETIA - 10MG Tablet - TAKE ONE TABLET DAILY.  
ASPIRIN - (Prescribed by Other Provider) - 325 mg Tablet,  
Delayed Release (E.C.) - 1 Tablet(s) by mouth once a day  
COMPRESSION STOCKINGS - Misc - WEAR AS DIRECTED  

 
Discharge Medications:
1. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Cyclobenzaprine 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) as needed for pain.  
4. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
5. Hydroxyzine HCl 25 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for itching.  
6. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

8. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
9. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation Q6H (every 6 hours) as needed for shortness of 
breath.  
10. Theophylline 100 mg Tablet Sustained Release 12 hr Sig: One 
(1) Tablet Sustained Release 12 hr PO Q12H (every 12 hours) as 
needed for SOB/Asthma.  
11. Ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
12. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

13. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
14. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed.  
15. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
16. Loperamide 2 mg Capsule Sig: One (1) Capsule PO QID (4 times 
a day) as needed for diarrhea.  
17. Alum-Mag Hydroxide-Simeth 200-200-20 mg/5 mL Suspension Sig: 
___ MLs PO QID (4 times a day) as needed for abdominal 
pain/gas.  
18. Nifedipine 60 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO DAILY (Daily).  
19. Amoxicillin 500 mg Tablet Sig: One (1) Tablet PO once a day 
as needed for dental work: take one hour before dental work.  
20. Celebrex ___ mg Capsule Sig: One (1) Capsule PO once a day.  

21. EpiPen 0.3 mg/0.3 mL Pen Injector Sig: One (1) injection 
Intramuscular as directed.  
22. Fluorouracil 5 % Cream Sig: One (1) application Topical as 
directed.  
23. Meclizine 25 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for dizziness.  
24. Actonel 35 mg Tablet Sig: One (1) Tablet PO once a week.  
25. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
26. Celecoxib 200 mg Capsule Sig: One (1) Capsule PO daily ().  
27. Ferrous Gluconate 325 mg (37.5 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Atypical Chest Pain
h/o CAD s/p stent x2
Hypertension
Anxiety
Hyperlipidemia
Chronic pain

 
Discharge Condition:
stable

 
Discharge Instructions:
You came to the hospital with chest tightness.  We did blood 
tests that did not show any evidence of heart damage or heart 
attack.  You were seen by your cardiologist who recommended 
outpatient stress test.  Your chest pain was improved with bowel 
movement and eating which makes us think the chest pain was 
related to your GI system and possibly worsened by the stress of 
your recent loss of your dog.
.
We made no changes in your medications.
.
Please follow up with your primary care doctor and with your 
cardiologist as below.  
.
If you have worsening chest pain, shortness of breath, 
confusion, slurred speech, nausea, vomiting, diarrhea, fevers, 
chills or any other symptoms that are concerning to you please 
call your doctor or come to the emergency room.
 
Followup Instructions:
___